US07595338B2
Hydrolysis of 2-(2,6-difluorophenyl)-2-methylpropionitrile was performed according to the procedure of Example 10 using sodium hydroxide in the presence of hydrogen peroxide to provide 2-(2,6-difluorophenyl)isobutyramide [1H-NMR (CDCl3): δ 7.34-7.29 (m, 1H), 6.91-6.85 (m, 2H), 6.43 (br s, 1H), 5.73 (br s, 1H), 1.68-1.66 (m, 6H)].

reactant | 2-(2,6-difluorophenyl)-2-methylpropionitrile | FC1=C(C(=CC=C1)F)C(C#N)(C)C | C10H9F2N
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
product | 2-(2,6-difluorophenyl)isobutyramide | FC1=C(C(=CC=C1)F)C(C(=O)N)(C)C | C10H11F2NO
